US08114868B2
3-{(S)-1-[4-(1-Cyclopropylmethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-phenyl]-ethyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one
2 M aqueous Na2CO3 solution (0.84 mL) was added to a solution of (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-[(S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl]-1,3-oxazinan-2-one (0.40 g) and 5-bromo-1-cyclopropylmethyl-1H-pyridin -2-one (0.24 g) in dimethyl-formamide (4 mL). The resulting mixture was sparged with argon for 10 min, before [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) dichloromethane complex (34 mg) was added. The mixture was heated to 100° C. and stirred at this temperature for 4 h. After cooling to ambient temperature, water was added and the resulting mixture was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4), and concentrated. The residue was purified by chromatography on silica gel (dichloromethane/methanol 99:1->95:5) to afford the title compound that was crystallized with little ethyl acetate. Yield: 0.19 g (46% of theory); Mass spectrum (ESI+): m/z=501 [M+H]+.

reactant | Na2CO3 | 2 M, 0.84 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-[(S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl]-1,3-oxazinan-2-one | 0.40 g | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
reactant | 5-bromo-1-cyclopropylmethyl-1H-pyridin -2-one | 0.24 g | BrC=1C=CC(N(C1)CC1CC1)=O | C9H10BrNO
solvent | dimethyl-formamide | 4 mL | CN(C=O)C | C3H7NO
product | 3-{(S)-1-[4-(1-Cyclopropylmethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-phenyl]-ethyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one | C1(CC1)CN1C=C(C=CC1=O)C1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O | C31H36N2O4
